US06063806
5-Bromo-7-methyl-7-nitroindoline (3.6 g) was dissolved in N,N-dimethylformamide (36 ml), and sodium hydride (677 mg) was added, which was followed by stirring at room temperature for 0.5 hr. 1-Iodooctane (3.4 g) was added to the reaction mixture and the mixture was stirred at the same temperature for 24 hr. Ethyl acetate (200 ml) was added to the reaction mixture, and the mixture was washed with water and dried over anhydrous sodium sulfate. Ethyl acetate was evaporated under reduced pressure. The residue was purified by gel column chromatography (eluent: ethyl acetate/n-hexane=1/100-1/50) to give 4.0 g of oily 1-octyl-5-bromo-6-methyl-7-nitroindoline.

reactant | 5-Bromo-7-methyl-7-nitroindoline | 3.6 g | BrC1=CC=2CCNC2C(C1)([N+](=O)[O-])C | C9H11BrN2O2
reactant | sodium hydride | 677 mg | [H-].[Na+]
reactant | 1-Iodooctane | 3.4 g | ICCCCCCCC | C8H17I
reactant | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 36 ml | CN(C=O)C | C3H7NO
product | 1-octyl-5-bromo-6-methyl-7-nitroindoline | 4.0 g | C(CCCCCCC)N1CCC2=CC(=C(C(=C12)[N+](=O)[O-])C)Br | C17H25BrN2O2
